Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___.
 
Chief Complaint:
dizziness, light-headedness
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
This is a ___ year old patient with a past medical history of CHB 
s/p PPM and CAD who is admitted with sudden onset of dizziness 
and lightheadedness with flushing while sitting visiting her son 
in the hospital.  

Her son is currently in the CCU with severe neurologic 
dysfunction after a code. She reports she has not been able to 
eat for at least one week and has been drinking water only. She 
has continued to take her glyburide through the last week. She 
states she was sitting at his bedside and had acute onset of 
flushing like her head was swelling. She also had some dizziness 
and diaphoresis with overall anxiety. This lasted up to 30 
minutes though she can't really quantify the time because she 
was very nervous to stand after the episode. She therefore went 
to the ED for evaluation. She notes that this occurred just 
after eating chicken from the cafeteria and reports that this 
was her first real meal in a week.

She denies any chest pain, shortness of breath, tunnel vision or 
other change in vision, tinnitus, spinning sensation, weakness, 
abdominal pain or other complaints. She was asymptomatic once 
her symptoms resolved on arrival to the ED.  

Per report, EP was curbsided in ED. As she had no complaints of 
chest pain or palpitations as a recent interogation, they did 
not feel her symptoms were consistent with CHB or PPM issue and 
requested medicine admission for presyncope workup.  

As above, the patient's PPM was last interogated one month ago 
(___) with no abnormalities noted. She was a-sensed, V-paced 
with underlying rhythm of CHB and no tachyarrythmias noted.  

In the ED, initial vs were: T 98.0 P 61 BP 175/77 R 16 O2 sat 
100% on RA. She did not receive any medications or IVF per ED 
notes. She was sent to the floor for management.  

On the floor, she is quite tearful at being separated from her 
son. She denies any current symptoms. She is very anxious and 
depressed. When asked, she states ___ in ___ has been following 
along with her and has been a tremendous help. She has no 
complaints and is willing to try broth and toast to eat. FSBG is 
125.  
 

 
Past Medical History:
-coronary artery disease:  
status post CABG in ___ and stenting of the RCA in ___  

___. At that time, her LIMA to LAD was found to be patent. She  

had an 80% LAD lesion, and a 100% D1 occlusion. The circumflex  
was moderately diseased, and the vein graft to the diagonal and  

OM was occluded. The RCA had serial 80% lesions and the vein  
graft to the PDA was occluded. At that time, she had 3 stents  
placed in the RCA.  
-hypertension  
-hypercholesterolemia  
-NIDDM  
-prior CVA without residual deficit  
-glaucoma  
-arthritis  
-history of heart block and dual chamber pacemaker placement in 
___  

 
Social History:
___
Family History:
remarkable for a son who also has diabetes and history of an MI. 
 

 
Physical Exam:
Vitals: T: 98.4 BP: 160/87 P: 54 R: 18 O2: 100% on RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, dry MM, oropharynx clear  
Neck: supple, JVP not elevated  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Sinus bradycardia, paced, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-tender, non-distended, bowel sounds present, 
no rebound tenderness or guarding, no organomegaly  
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  

 
Pertinent Results:
___ 08:25PM URINE  HOURS-RANDOM
___ 08:25PM URINE  GR HOLD-HOLD
___ 08:25PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 08:25PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-0.2 PH-5.0 
LEUK-SM
___ 08:25PM URINE  ___ BACTERIA-FEW 
YEAST-NONE ___ TRANS ___ 06:43PM   GLUCOSE-170* K+-4.7
___ 06:30PM   UREA N-31* CREAT-1.4* SODIUM-139 
POTASSIUM-5.0 CHLORIDE-105 TOTAL CO2-26 ANION GAP-13
___ 06:30PM   estGFR-Using this
___ 06:30PM   CK(CPK)-96
___ 06:30PM   CK-MB-NotDone cTropnT-<0.01
___ 06:30PM   WBC-9.1 RBC-4.68 HGB-13.3 HCT-40.5 MCV-87 
MCH-28.4 MCHC-32.8 RDW-14.0
___ 06:30PM   NEUTS-67.7 ___ MONOS-4.2 EOS-1.0 
BASOS-0.7
___ 06:30PM   PLT COUNT-260
___ 06:30PM   ___ PTT-26.2 ___

CXR: No acute intrathoracic abnormality.

EKG: A sensed, V paced, LBBB morphology, no clear ischemic 
changes, no change from prior  

 
Brief Hospital Course:
This is a ___ year old female with history of CAD s/p CABG and 
CHB status post PPM placement who is admitted with an episode of 
dizziness and flushing while in the midst of a family tragedy. 
This patient had spent the previous week at her son's bedside 
during his hospitalization in the CCU.

# Presyncope: Most likely due to hypoglycemia from combination 
of not heating and taking her glyburide or hypotension from 
volume depletion. Mildly elevated creatinine suggests 
hypovolemia. EP consulted and interogated pacer, no evidence of 
failure. Cardiac enzymes cycled with no elevation. Treated with 
IV fluids, 

# Acute Renal Failure: pre-renal etiology. Treated with IVF. PO 
intake encouraged.

# CAD s/p CABG: Patient was continued on BB, ASA, lisinopril, 
atorvastatin.

# DM type 2: Metformin was held given creatinine of 1.4. Insulin 
sliding scale was given. Glyburide was held with concern for 
hypoglycemia as patient was not willing to eat much. On 
discharge we instructed her to hold her glyburide until further 
notice given her likely continued decreased oral intake.

# HTN: Continued atenolol, lisinopril, felodipine

 
Medications on Admission:
Atenolol 50 mg once a day  
Lisinopril 5 mg once a day  
Glyburide 5 mg in the am, 2.5 in evening  
ASA 325 mg once a day  
Plendil 5 mg daily  
Lipitor 80 mg once a day  
Metformin 500 mg BID (recent increase)  

 
Discharge Medications:
1. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
2. Felodipine 2.5 mg Tablet Sustained Release 24 hr Sig: Two (2) 
Tablet Sustained Release 24 hr PO DAILY (Daily).  
3. Lisinopril 5 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

4. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
5. Atenolol 50 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
6. Metformin 500 mg Tablet Sig: One (1) Tablet PO once a day.  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
1. Pre-Syncope, NOS

SECONDARY:
1. DM-2
2. Hypertension

 
Discharge Condition:
stable, alert and oriented, breathing comfortable on room air, 
ambulating without difficulty

 
Discharge Instructions:
It was a pleasure to participate in your care during your 
hospitalization at ___. As you 
know, you were admitted for dizziness and light-headedness. We 
ran several tests on you and it appears that this was most 
likely not due to your heart. It may have been due to your blood 
sugar, however.

We have not changed any of your medications why you were here. 
However, it is very important that you eat at least small meals 
regularly (at least 3 times a day) while taking your Metformin.

Please call your physician or return to the emergency department 
if you experience any of the following: dizziness, 
light-headedness, loss of consciousness, falls, any bloody 
diarrhea or vomiting, any chest pain, shortness of breath, or 
any severe headaches.
 
Followup Instructions:
___